US07223879B2
2-(4-Cyanophenylamino)benzamide
Following the general procedure, 4-bromobenzonitrile (91 mg, 0.5 mmol) was coupled with 2-aminobenzamide (102 mg, 0.75 mmol) with the reaction time of 17 h. Chromatography on silica gel column with 1:1 hexane:ethyl acetate gave 103 mg (87%) of the title compound as a pale yellow solid.

reactant | 4-bromobenzonitrile | 0.5 mmol, 91 mg | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | 2-aminobenzamide | 0.75 mmol, 102 mg | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-Cyanophenylamino)benzamide | 103 mg, 87% | C(#N)C1=CC=C(C=C1)NC1=C(C(=O)N)C=CC=C1 | C14H11N3O
